US07214665B2
Preparation 21: 1-Prop-2-ynyl-piperidine-4-carboxylic acid methyl ester (JR3245)
To a solution of methyl isonipecotate 3.5 g (24,4 mmol, 3.30 mL) in 100 mL dichloromethane was added TEA (1.5 eq, 36.6 mmol, 5.1 mL), propargyl bromide (3.0 eq, 73.2 mmol, 6.5 ml), at room temperature for 36 hrs. The reaction was quenched with 35 mL water to yield to provide a clear solution. The solution was extracted with dichloromethane 2×25 mL, dried with Na2SO4, and the solvent evaporated to provide a yellow oil. r.f. (40% EtOAc/Hexanes) 0.26 stains faint white with Vanillin, starting material r.f. 0.05 stains yellow with Vanillin. The product appeared pure after extraction.

reactant | methyl isonipecotate | 24,4 mmol, 3.30 mL, 3.5 g | N1CCC(C(=O)OC)CC1 | C7H13NO2
reactant | propargyl bromide | 73.2 mmol, 6.5 ml, 3.0 eq | C(C#C)Br | C3H3Br
reactant | Vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-Prop-2-ynyl-piperidine-4-carboxylic acid methyl ester | COC(=O)C1CCN(CC1)CC#C | C10H15NO2
